US07452880B2
[5-(2,4-Difluoro-phenoxy)-3-fluoro-pyridin-2-yl]-(2-methoxy-phenyl)-methanone (560 mg, 1.5 mmol) was added to 17 mL of EtOH and the reaction mixture was heated until all solid had dissolved. The reaction mixture was cooled, and (N,N-diisopropyl)ethylamine (0.21 mL, 2.3 mmol) and hydrazine (0.1 mL, 3.1 mmol) were added. The reaction mixture was stirred for four hours at room temperature, and then was taken up in 60 mL of EtOAc, washed four times with 20 mL of water, dried (MgSO4). The organic solvent was filtered and concentrated under reduced pressure. The residue was purified by flash chromatography 40 mm×7.5 cm) with 4: to 1:1 hexanes/EtOAc to yield 0.03 g of 6-(2,4-difluoro-phenoxy)-3-(2-methoxy-phenyl)-1H-pyrazolo[4,3-b]pyridine. Mass Spec. M+H=354.

reactant | [5-(2,4-Difluoro-phenoxy)-3-fluoro-pyridin-2-yl]-(2-methoxy-phenyl)-methanone | 1.5 mmol, 560 mg | FC1=C(OC=2C=C(C(=NC2)C(=O)C2=C(C=CC=C2)OC)F)C=CC(=C1)F | C19H12F3NO3
reactant | EtOH | 17 mL | CCO | C2H6O
reactant | (N,N-diisopropyl)ethylamine | 2.3 mmol, 0.21 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | hydrazine | 3.1 mmol, 0.1 mL | NN | H4N2
solvent | EtOAc | 60 mL | CCOC(=O)C | C4H8O2
product | 6-(2,4-difluoro-phenoxy)-3-(2-methoxy-phenyl)-1H-pyrazolo[4,3-b]pyridine | 0.03 g | FC1=C(OC=2C=C3C(=NC2)C(=NN3)C3=C(C=CC=C3)OC)C=CC(=C1)F | C19H13F2N3O2
